US04658041
1-Chlorooctane (297.36 g, 1.0 mole), dimethyl carbonate (450 g, 5.0 moles) and 30.0 g of DOWEX® MWA-1 beads (Trademark of The Dow Chemical Company) are combined in a 2-liter stainless steel Paar bomb. The reactor is pressurized to 100 psi of carbon dioxide and heated with stirring to 150° C. After 2 hours, the bomb is cooled to room temperature and vented. After separating the catalyst by filtration, distillation gives 28.1 g (15 percent yield based on starting 1-chlorooctane) of methyl 1-octyl carbonate.

reactant | 1-Chlorooctane | 1.0 mole, 297.36 g | ClCCCCCCCC | C8H17Cl
reactant | dimethyl carbonate | 5.0 moles, 450 g | C(OC)(OC)=O | C3H6O3
reactant | carbon dioxide | C(=O)=O | CO2
product | methyl 1-octyl carbonate | 28.1 g, 15 percent yield | C(OC)(OCCCCCCCC)=O | C10H20O3
